US05965761
A mixture of 0.5 g of methyl (E)-4-hydroxy-3-methoxycinnamate, 10 ml of 2-butanone, 0.35 ml of 6-bromohexanol and 1 g of ground potassium carbonate was heated under reflux for 5 hrs. Then, the reaction mixture was cooled and partitioned between ethyl acetate and water. The organic phase was dried over magnesium sulphate, filtered and evaporated. Chromatography on 100 g of silica gel with toluene/ethyl acetate (1:1) gave 750 ml of methyl (E)-3-[3-methoxy-4-(6-hydroxyhexyloxy)phenyl]acrylate as a colorless solid, λmax. (CH2Cl2): 323 nm (ε=20513).

reactant | methyl (E)-4-hydroxy-3-methoxycinnamate | 0.5 g | OC1=C(C=C(/C=C/C(=O)OC)C=C1)OC | C11H12O4
reactant | 6-bromohexanol | 0.35 ml | BrCCCCCCO | C6H13BrO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 10 ml | CC(CC)=O | C4H8O
product | methyl (E)-3-[3-methoxy-4-(6-hydroxyhexyloxy)phenyl]acrylate | 750 ml | COC=1C=C(C=CC1OCCCCCCO)/C=C/C(=O)OC | C17H24O5
